US03949085
10.5 g of 7-hydroxy-isoflavone in 200 ml of anhydrous acetone are boiled for 2 hours with 11.8 g of p-nitrobenzyl iodide in the presence of 5.7 g of anydrous potassium carbonate under a reflux condenser. On distilling off about half of the volume of acetone, the residue is poured into 1000 ml of water. The precipitating crude product is subjected to suction and recrystallized from glacial acetic acid, affording light yellow plates of 7-p-nitrobenzyloxy-isoflavone, m.p. 225°-226°C.

reactant | 7-hydroxy-isoflavone | 10.5 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | p-nitrobenzyl iodide | 11.8 g | [N+](=O)([O-])C1=CC=C(CI)C=C1 | C7H6INO2
reactant | potassium carbonate | 5.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 7-p-nitrobenzyloxy-isoflavone | [N+](=O)([O-])C1=CC=C(COC2=CC=C3C(C(=COC3=C2)C2=CC=CC=C2)=O)C=C1 | C22H15NO5
